US07338959B2
A. N-Benzyl-1-methyl-5-nitro-1H-benzimidazol-2-amine
N1-Methyl-4-nitro-benzene-1,2-diamine (2.0 g, 12.0 mmol) and benzyl isothiocyanate (1.75 ml, 13.2 mmol) were coupled using the procedure of example one part B to give the title compound as a yellow solid (2.4 g, 71%). 1H NMR (300 MHz, d6-DMSO) δ 7.97 (d, J=2.4 Hz, 1H), 7.90 (dd, J=8.7 and 2.4 Hz, 1H), 7.77 (t, J=5.7 Hz, 1H), 7.21-7.41 (m, 6H), 4.63 (d, J=5.7 Hz, 2H), 3.62 (s, 3H) ppm.

reactant | N1-Methyl-4-nitro-benzene-1,2-diamine | 12.0 mmol, 2.0 g | CNC=1C(=CC(=CC1)[N+](=O)[O-])N | C7H9N3O2
reactant | benzyl isothiocyanate | 13.2 mmol, 1.75 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
product | N-Benzyl-1-methyl-5-nitro-1H-benzimidazol-2-amine | 2.4 g, 71% | C(C1=CC=CC=C1)NC1=NC2=C(N1C)C=CC(=C2)[N+](=O)[O-] | C15H14N4O2
